US06723722B1
A solution of N-(4-benzyloxycarbonyl-2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide (840 mg) and 10% Pd/C (500 mg) in methanol (35 ml) was stirred at room temperature for 15 hours under a hydrogen atmosphere. The catalyst was filtered off and the reaction mixture was concentrated to obtain N-(2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide as a colorless syrup. A solution of the resultant 2-[1-(tert-butoxycarbonyl)-4-piperidinyl]-N-(2-oxo-1-piperazinyl)acetamide in ethyl acetate (40 ml) and a 10% aqueous solution of sodium carbonate (40 ml) was combined at 0° C. with 6-chloronaphthalene-2-sulfonyl chloride (470 mg) and stirred at room temperature for 30 minutes. The organic phase was separated, washed with brine, dried and concentrated to obtain a residue, which was purified by a column chromatography on a silica gel (ethyl acetate) and crystallized from ethyl acetate to obtain the title compound (420 mg) as colorless crystals.

reactant | N-(4-benzyloxycarbonyl-2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide | 840 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C24H34N4O6
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | N-(2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide | O=C1N(CCNC1)NC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H28N4O4
